US06403561B1
1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-indoline-2(S)-carboxylic Acid (3-hydroxy)propylamide
Methyl 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)indoline-2(S)-carboxylate (0.36 g, 1 mmol) was dissolved in methanol (10 ml) and treated, under nitrogen and at 50° C., with 3-hydroxypropylamine (10 ml). The mixture was stirred at 50° C. for 3 h and the solvent was evaporated off. The residue was dissolved in methylene chloride (30 ml) and washed with 1M KHSO4. The organic phase was dried (Na2SO4) and evaporated. The residue was purified by column chromatography in order to give the product.

reactant | Methyl 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)indoline-2(S)-carboxylate | 1 mmol, 0.36 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)OC)CC | C19H26N2O5
reactant | 3-hydroxypropylamine | 10 ml | OCCCN | C3H9NO
solvent | methanol | 10 ml | CO | CH4O
product | 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-indoline-2(S)-carboxylic Acid (3-hydroxy)propylamide | OCCCNC(=O)[C@H]1N(C2=CC=CC=C2C1)C([C@H](CC)NC(=O)OC(C)(C)C)=O | C21H31N3O5
